US04981985
To a magnetically stirred suspension of iminodiacetic acid (50 g, 0.376 mol) in absolute ethanol (1000 ml) under N2 was added boron trifluoride etherate (100 g, 1.127 mmol). The reaction mixture was refluxed for 3 days and concentrated in vacuo to a volume of 150 ml. A saturated NH4Cl solution (500 ml) was added and the reaction mixture was extracted with CH2Cl2 (3×250 ml). The combined organic layers were dried and concentrated in vacuo. The crude product was distilled at 10 mm Hg to give 65.2 g (92% yield) of iminodiacetic acid, diethyl ester as a colorless liquid.

reactant | iminodiacetic acid | 0.376 mol, 50 g | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | boron trifluoride etherate | 1.127 mmol, 100 g | B(F)(F)F.CCOCC
reactant | ethanol | 1000 ml | C(C)O | C2H6O
product | iminodiacetic acid, diethyl ester | 65.2 g, 92% yield | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
